US20010011133A1
2-Dimethylaminoethylchloride hydrochloride is stirred with 10M aqueous NaOH (4 mL) and ether (20 mL) for one hour. The ether layer is decanted and the aqueous layer is washed with ether (10 ml). The combined ether layers are dried over Na2SO4, decanted, and treated with molecular sieves overnight. To a suspension of ethyl 1,2-dihydro-3-hydroxy-pyrido[1,2-a]benzimidazole-4-carboxylate (1.3 g , 5 mmol) in DMF (25 mL) is added in one portion the ethereal solution. The reaction mixture is stirred for 15 min, then a suspension of sodium hydride (0.6 g, 15 mmol, 60% in oil) in DMF (5 mL) is added in one portion. After stirring at ambient temperature for 15 min, the mixture is heated at 110° C. for 2 h. The mixture is cooled, concentrated, and water is added (20 mL). The resulting mixture is extracted 2X with chloroform (100 mL). The combined organic layers are dried and concentrated to afford ethyl 5-(2-dimethylaminoethyl)-3-oxo-1,2,3,5-tetrahydropyrido [1,2-a]benzimidazole-4-carboxylate.

reactant | 2-Dimethylaminoethylchloride hydrochloride | Cl.CN(CCCl)C
reactant | NaOH | 10M, 4 mL | [OH-].[Na+]
reactant | ethyl 1,2-dihydro-3-hydroxy-pyrido[1,2-a]benzimidazole-4-carboxylate | 5 mmol, 1.3 g | OC1=C(C2=NC3=C(N2CC1)C=CC=C3)C(=O)OCC | C14H14N2O3
reactant | sodium hydride | 15 mmol, 0.6 g | [H-].[Na+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ether | 20 mL | CCOCC | C4H10O
product | ethyl 5-(2-dimethylaminoethyl)-3-oxo-1,2,3,5-tetrahydropyrido [1,2-a]benzimidazole-4-carboxylate | CN(CCN1C=2N(C3=C1C=CC=C3)CCC(C2C(=O)OCC)=O)C | C18H23N3O3
